US07592358B2
43.1a. [2-bromo-5-(4-chlorophenyl)pyridin-3-yl]methylamine
1.32 mL (17.63 mmol) of formalin solution (37% in water) and 443 mg (7.05 mmol) of sodium cyanoborohydride were added to a solution of 0.50 g (1.76 mmol) of 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine (Example 16.1c) in 20 mL of acetonitrile, the mixture was acidified to pH 4 with HOAc, and stirred for 16 hours at RT. The reaction mixture was acidified with 4M aqueous HCl and stirred for 1 hour at RT. It was made alkaline with sat. aqueous sodium carbonate solution and the aqueous phase was exhaustively extracted with DCM. The combined organic phases were dried over magnesium sulfate and evaporated down in vacuo. The residue was purified by chromatography (silica gel, gradient PE/DCM 50:50→100:0). Yield: 0.24 g (46% of theoretical); C12H10BrClN2 (M=297.578); calc.: molpeak (M+H)+: 297/299/301 (BrCl); found: molpeak (M+H)+:297/299/301 (BrCl); HPLC-MS: 6.09 minutes (method B).

reactant | formalin | 17.63 mmol, 1.32 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 7.05 mmol, 443 mg | C(#N)[BH3-].[Na+]
reactant | 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine | 1.76 mmol, 0.50 g | BrC1=NC=C(C=C1N)C1=CC=C(C=C1)Cl | C11H8BrClN2
reactant | HCl | 4M | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | HOAc | CC(=O)O | C2H4O2
product | [2-bromo-5-(4-chlorophenyl)pyridin-3-yl]methylamine | BrC1=NC=C(C=C1CN)C1=CC=C(C=C1)Cl | C12H10BrClN2
